US07858632B2
To a stirred suspension of 2-(1-Hydroxy-1-methyl-ethyl)4-methoxy-5-piperazin-1-yl-phenol (0.5 g, 1.9 mmol) in dichloromethane under nitrogen at room temperature was aded trifluoroacetic acid (7.2 mL, 93.86 mmol) followed by triethyl silane (3.0 mL, 18.8 mmol). The reaction mixture was stirred for 18 hours at room temperature, and then was evaporated under reduced pressure. The residue was partitioned between dichloromethane and saturated aqueous potassium carbonate. The organic layer was separated, washed with water, dried (MgSO4), filtered, and evaporated under reduced pressure to afford 0.47 g (99% ) of 2-Isopropyl-4-methoxy-5-piperazin-1-yl-phenol as an oil.

reactant | 2-(1-Hydroxy-1-methyl-ethyl)4-methoxy-5-piperazin-1-yl-phenol | 1.9 mmol, 0.5 g | OC(C)(C)C1=C(C=C(C(=C1)OC)N1CCNCC1)O | C14H22N2O3
reactant | trifluoroacetic acid | 93.86 mmol, 7.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethyl silane | 18.8 mmol, 3.0 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Isopropyl-4-methoxy-5-piperazin-1-yl-phenol | 0.47 g, 99% | C(C)(C)C1=C(C=C(C(=C1)OC)N1CCNCC1)O | C14H22N2O2
